US06043365
A mixture of 107.7 g of o-fluorophenylacetic acid, 100 g of (R)-4-phenyl-2-oxazolidinone, 186 g of triethylamine, and 1.0 L of toluene is heated to an internal temperature of 80° C. (heating mantle temperature 90° C.) to afford a solution; 88.5 g of pivaloyl chloride is added over period of 30 minutes with efficient stirring while maintaining an internal temperature 80-85° C. and stirred at this temperature for 2 hours. An additional 44.1 g of pivaloyl chloride is added over a period of 15 minutes while maintaining an internal temperature 80-85° C., and the mixture is stirred at the same temperature for additional 3 hours. The mixture is cooled to an internal temperature of 40° C. over a period of 10 minutes and 300 mL of water (prewarmed to 40° C.) is added over a period of 2 minutes while maintaining an internal temperature below 40-45° C. (slightly exothermic reaction). The organic layer is separated and washed with 358 mL of 2.17 N HCl solution (prewarmed to 40° C.) and 100 mL of water (prewarmed to 40° C.) sequentially while maintaining an internal temperature 40-45° C. and concentrated to dryness under reduced pressure (58-61 mbar; bath temperature, 51-53° C.) to obtain 3-[2-(2-fluorophenyl)-1-oxoethyl]-4-(R)-phenyl-2-oxazolidinone as a semi-solid. The semi-solid is suspended in 400 mL of tert-butyl methyl ether and the mixture is heated to reflux (internal temperature of 58-61° C.) to obtain a yellow solution. The solution is cooled to 20-25° C. over a period of 20 minutes and stirred at this temperture for 4 hours. The mixture is then further cooled to 5 to 9° C. and stirred at this temperature for additional 2 hours. The solids are collected by filtration and washed with a total of 27 mL of tert-butyl methyl ether (precooled to 5-9° C.) in three equal portions of 9 mL each. The product is dried at 45-50° C. (86-99 mbar) for 12 hours to obtain optically pure of 3-[2-(2-fluorophenyl)-1-oxoethyl]-4-(R)-phenyl-2-oxazolidinone as a white solid; m.p. 110-111° C.; [α]D : -110.4 (c=1, MeOH)

reactant | o-fluorophenylacetic acid | 107.7 g | FC1=C(C=CC=C1)CC(=O)O | C8H7FO2
reactant | (R)-4-phenyl-2-oxazolidinone | 100 g | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
reactant | triethylamine | 186 g | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 88.5 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | pivaloyl chloride | 44.1 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | water | 300 mL | O | H2O
solvent | toluene | 1.0 L | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(2-fluorophenyl)-1-oxoethyl]-4-(R)-phenyl-2-oxazolidinone | FC1=C(C=CC=C1)CC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C17H14FNO3
